US07348017B2
2,5-Dihydroxyphenylacetic acid is refluxed in methanol in the presence of sulfuric acid, to give methyl 2-(2,5-dihydroxyphenyl)acetate.

reactant | 2,5-Dihydroxyphenylacetic acid | OC1=C(C=C(C=C1)O)CC(=O)O | C8H8O4
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | methanol | CO | CH4O
product | methyl 2-(2,5-dihydroxyphenyl)acetate | OC1=C(C=C(C=C1)O)CC(=O)OC | C9H10O4
